US05187175
1-[4,6-Bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]-5-hexyn-1-one
A mixture of 1-[4,6-bis(1,1-dimethylethyl)-5-hydroxypyrimidin-2-yl]-6-trimethylsilyl-5-hexyn-1-one (0.87 g, 2.3 mmol), Example 8, and potassium fluoride dihydrate (0.91 g, 9.7 mmol) in N,N-dimethylformamide (12 mL) is warmed to 50° C. After stirring for 47 hours at 50° C., the solvent is removed under vacuum and the organic residue is diluted with water. This mixture is extracted with ethyl acetate and the combined extracts are washed with saturated aqueous ammonium chloride solution and brine. The organic is concentrated under vacuum and the organic residue purified by flash chromatorgraphy (SiO2, 20% ethyl acetate (hexane) followed by recrystallization from methanol and water to give 0.48 g (68%) of the title compound), mp 64°-66° C.

reactant | 1-[4,6-bis(1,1-dimethylethyl)-5-hydroxypyrimidin-2-yl]-6-trimethylsilyl-5-hexyn-1-one | 2.3 mmol, 0.87 g | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C(CCCC#C[Si](C)(C)C)=O | C21H34N2O2Si
reactant | potassium fluoride dihydrate | 9.7 mmol, 0.91 g | O.O.[F-].[K+]
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
product | 1-[4,6-Bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]-5-hexyn-1-one | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C(CCCC#C)=O | C18H26N2O2
